US05155127
A solution of N-[2,6-bis(1-methylethyl)phenyl]-N'-(phenylmethoxy)-urea (1.62 g, 5 mmol) in 5 ml of dry dimethylformamide is added dropwise to a room temperature suspension of hexane washed sodium hydride (0.13 g, 5.5 mmol) in 3 ml of dry dimethylformamide with stirring. When gas evolution is complete, the suspension is warmed to 60° C. and 1-bromodecane (1 ml, 5 mmol) is added dropwise. The mixture is stirred for 30 minutes, cooled to room temperature, poured into water and extracted with diethyl ether. The diethyl ether extract is diluted with hexane and washed with water, dried, filtered, and evaporated to provide a colorless solid which is triturated with hexane to give 1.47 g of N'-[2,6-bis(1-methylethyl)phenyl]-N-decyl-N-(phenylmethoxy)-urea; mp 91°-93° C.

reactant | N-[2,6-bis(1-methylethyl)phenyl]-N'-(phenylmethoxy)-urea | 5 mmol, 1.62 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NOCC1=CC=CC=C1 | C20H26N2O2
reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 5.5 mmol, 0.13 g | [H-].[Na+]
reactant | 1-bromodecane | 5 mmol, 1 ml | BrCCCCCCCCCC | C10H21Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N'-[2,6-bis(1-methylethyl)phenyl]-N-decyl-N-(phenylmethoxy)-urea | 1.47 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(OCC1=CC=CC=C1)CCCCCCCCCC)=O | C30H46N2O2
